US08314109B2
470 mg of sodium ethanethiolate are added to a solution of 1 g of ethyl 6-cyanoimidazo[1,2-a]pyridine-2-carboxylate (J. Med. Chem. (1998), 41(22), 4317) in a mixture of 15 mL of ethanol and 10 mL of dichloromethane cooled to 0° C. The reaction mixture is stirred for 5 hours at 25° C. and filtered, and the filtrate is evaporated to dryness. The residue is chromatographed on silica, eluting with a mixture of dichloromethane and methanol (98/2) to give 625 mg of ethyl 6-[ethoxy(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate in the form of a pale yellow solid.

reactant | sodium ethanethiolate | 470 mg | C(C)[S-].[Na+]
reactant | ethyl 6-cyanoimidazo[1,2-a]pyridine-2-carboxylate | 1 g | C(#N)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C11H9N3O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 6-[ethoxy(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate | 625 mg | C(C)OC(C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)=N | C13H15N3O3
